US04605740
7.2 parts 30% methanolic Na-methylate solution are added to 15 parts ethylenediamine. 77 parts 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene are added drop-wise at 30° C. during cooling. Recrystallisation is then allowed to proceed overnight and the crystalline mass is dissolved in 400 parts chloroform, and neutralised with 4 parts concentrated hydrochloric acid. 50 parts water are added, the organic phase separated off, and the aqueous phase extracted 5 times with 50 parts chloroform in each instance. The combined organic phases are reduced in a rotary evaporator at a bath temperature of 90° C. and under a vacuum of 20 Torr. The residue is heated in a vacuum of 10 Torr to 110° to 120° C. (bath temperature 140° C.). On conclusion of the furane separation the sedimentation temperature increases to 140° C. After cooling, the product is dissolved in hot n-butanol, filtered, and allowed to recrystallise at 0° C. 27 g N,N'-ethylenebisacrylamide with a melting point of 150° to 155° C. is obtained.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene | C(=O)(OC)C1C2C=CC(C1)O2 | C8H10O3
product | N,N'-ethylenebisacrylamide | 27 g | C(CNC(C=C)=O)NC(C=C)=O | C8H12N2O2
